US08222266B2
Preparation 37: 4-(2-Fluoro-phenyl)-2-methylsulfanyl-pyrimidine (Prep37)
To a solution of 4-chloro-2-methylsulfanyl-pyrimidine (1.00 g, 6.22 mmol), 2-fluoro-phenyl-boronic acid (1.04 g, 6.84 mmol), Na2CO3 (790 mg, 7.45 mmol), triphenylphosphine (163 mg, 0.62 mmol) in nPrOH (50 ml), Pd(OAc)2 (42 mg, 0.187 mmol) was added and the mixture was refluxed for 3 hours. The solvent was evaporated under vacuum, and the crude was dissolved in ethyl acetate and washed with water. The organic phase was dried (Na2SO4) and evaporated; the crude was purified by flash chromatography with petroleum ether-ethyl acetate (97-3 to 95-5) to give the title compound (1.23 g, 90% yield).

reactant | 4-chloro-2-methylsulfanyl-pyrimidine | 6.22 mmol, 1.00 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | 2-fluoro-phenyl-boronic acid | 6.84 mmol, 1.04 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 7.45 mmol, 790 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.62 mmol, 163 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | nPrOH | 50 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.187 mmol, 42 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(2-Fluoro-phenyl)-2-methylsulfanyl-pyrimidine | 1.23 g, 90% yield | FC1=C(C=CC=C1)C1=NC(=NC=C1)SC | C11H9FN2S
